US07074817B2
{1-Benzyl-5-[3,5-bis(trifluoromethyl)phenyl]-1H-indol-3-yl}(oxo)acetic acid
{1-Benzyl-5-[3,5-bis(trifluoromethyl)phenyl]-1H-indol-3-yl}(oxo)acetic acid was prepared from ethyl {1-benzyl-5-[3,5-bis(trifluoromethyl)phenyl]-1H-indol-3-yl}(oxo)acetate (0.737 g, 1.42 mmol), potassium hydroxide (0.260 g, 4.63 mmol) in THF (9 mL) and water (9 mL) according to the procedure described in Step 4 of Example 5. Purification by crystallization from acetonitrile and drying at 88° C. furnished the title compound as a white solid (0.326 g, 47%), mp: 206-207° C. Mass spectrum (+APCI, [M+H]+) m/z 492; 1HNMR (400 MHz, DMSO-d6): δ 13.8-14.3 (br s, 1H), 8.75 (s, 1H), 8.5 (s, 1H), 8.25 (s, 2H), 8.1 (s, 1H), 7.75 (s, 2H), 7.25-7.35 (m, 5H), and 5.6 ppm(s, 2H).

reactant | ethyl {1-benzyl-5-[3,5-bis(trifluoromethyl)phenyl]-1H-indol-3-yl}(oxo)acetate | 1.42 mmol, 0.737 g | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C(=O)OCC)=O | C27H19F6NO3
reactant | potassium hydroxide | 4.63 mmol, 0.260 g | [OH-].[K+]
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | water | 9 mL | O | H2O
product | {1-Benzyl-5-[3,5-bis(trifluoromethyl)phenyl]-1H-indol-3-yl}(oxo)acetic acid | 0.326 g, 47% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C(=O)O)=O | C25H15F6NO3
